US08541425B2
A mixture of 4-bromo-1H-pyrrolo[2,3-b]pyridine (1.10 g, 0.00558 mol) and 4-bromo-1H-pyrazole (1.2 g, 0.0084 mol) was heated neat to 150° C. for 2 h. DMF was added to dissolve the crude residue. This residue was taken up in EtOAc and washed with 1N NaOH. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to give a crude 4-(4-bromo-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-b]pyridine residue, LC/MS (M+H)+: 263,265.

reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine | 0.00558 mol, 1.10 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | 4-bromo-1H-pyrazole | 0.0084 mol, 1.2 g | BrC=1C=NNC1 | C3H3BrN2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-bromo-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-b]pyridine | BrC=1C=NN(C1)C1=C2C(=NC=C1)NC=C2 | C10H7BrN4
